US04460580
A solution of 7.2 g of (R)-2-phenyl-oxirane and 14.3 g of 5-(2-benzylamino-ethoxy)-salicylamide in 100 ml of isopropanol is refluxed for 22-24 hours. The solution is concentrated by evaporation to yield (R)-α-[N-benzyl-N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol, which is further processed in this form.

reactant | (R)-2-phenyl-oxirane | 7.2 g | C1(=CC=CC=C1)[C@H]1OC1 | C8H8O
reactant | 5-(2-benzylamino-ethoxy)-salicylamide | 14.3 g | C(C1=CC=CC=C1)NCCOC1=CC=C(C(C(=O)N)=C1)O | C16H18N2O3
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | (R)-α-[N-benzyl-N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol | C(C1=CC=CC=C1)N(CCOC1=CC(=C(C=C1)O)C(N)=O)C[C@@H](C1=CC=CC=C1)O | C24H26N2O4
